US09315521B2
Lithium aluminum hydride (956 mg, 5.8 mmol) was stirred in anhydrous THF (40 mL). A solution of methyl 3-ethylpyridine-4-carboxylate (904 mg, 3.97 mmol) in anhydrous THF (10 mL) was added at 0° C., and then stirred at room temperature for 1 hour. The reaction was quenched with an aqueous solution of sodium hydroxide and extracted 5 times with ethyl acetate. The organic phase was washed with brine and dried over sodium sulfate. After evaporation of the solvent, (3-ethylpyridin-4-yl)methanol was obtained as a yellow oil (770 mg, 97% yield) and used in the next step without further purification.

reactant | Lithium aluminum hydride | 5.8 mmol, 956 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 3-ethylpyridine-4-carboxylate | 3.97 mmol, 904 mg | C(C)C=1C=NC=CC1C(=O)OC | C9H11NO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (3-ethylpyridin-4-yl)methanol | C(C)C=1C=NC=CC1CO | C8H11NO
